US06780634B1
1.3.2 287.4 g (−)-acetyl-2-azabicyclo[2.2.1]hept-5-ene-3-one (100%==>−255 ml, 97%; 1.9 moles) were dissolved in 380 ml water and 1217 ml 2-butanol. The solution was cooled to 0 to 2° C. 45 g NaBH4 (1.188 moles, 1.25 eq.) were suspended in 304 ml fresh 2 butanol in another stirring device. The NaBH4 suspension as added to the solution during 1-2 hours. The reaction was exothermic, and the temperature was not allowed to exceed 5° C. The temperature had to be at 0° C. before a portion was added. The reaction was followed by DC (thin-layer chromatography) (hexane/etrol/MeOH: 551). The reaction was allowed to continue for 1 to 2 hours after the addition. When the reaction as complete (educt concentration had to be at <1.0%), the pH was adjusted to 2 with ca. 135 g concentrated hydrochloric acid. The temperature as maintained below 10° C. The pH was then adjusted immediately to 9 with ca. 85 ml 30% sodium hydroxide solution. The precipitated salts were filtered and washed with 127 ml fresh 2-butanol. The filtrate and the “2-butanol wash” were combined, and the phases separated. The aqueous phase as extracted twice with 380 ml fresh 2-butanol each time. The 2-butanol phases were combined. Ca. 2450 g of a 10% solution of the product (1R,4S)-1-acetylamino-4-(hydroxymethyl)-2-cyclopentene, were obtained in 2-butanol. This corresponded to ca. 250 g of 100% product, (1R,4S)-1-acetylamino-4-(hydroxymethyl)-2-cyclopentene, corresponding to a yield of 85%.

reactant | (−)-acetyl-2-azabicyclo[2.2.1]hept-5-ene-3-one | 1.9 moles, >−255 ml | C(C)(=O)C12NC(C(C=C1)C2)=O | C8H9NO2
reactant | NaBH4 | 1.188 moles, 45 g, 1.25 eq. | [BH4-].[Na+]
reactant | butanol | C(CCC)O | C4H10O
reactant | hexane | CCCCCC | C6H14
solvent | water | 380 ml | O | H2O
solvent | 2-butanol | 1217 ml | CC(CC)O | C4H10O
solvent | MeOH | CO | CH4O
product | (1R,4S)-1-acetylamino-4-(hydroxymethyl)-2-cyclopentene | yield of 85% | C(C)(=O)N[C@H]1C=C[C@H](C1)CO | C8H13NO2
